US04737508
Stir slowly, an intimate mixture of 220 g of 2-bromo-4,6-dichlorotoluene, 167 g of N-bromosuccinimide and 1 g of benzoyl peroxide in a flask (equipped with a condenser and stirrer) immersed in an 145° C. oil bath. After 10-20 min a vigorous eruption occurs and the mixture liquifies. Remove the oil bath and stir for an additional 5 min. Add 1.5 L of CCl4 slowly through the condenser. Cool the mixture and suction filter the resulting reaction mixture. Wash the filtrate with 5% aqueous sodium thiosulfate, dry over anhydrous K2CO3, filter and evaporate to a residue. Fractionally distill the residue to give 134 g of 2-bromo-4,6-dichlorobenzyl bromide, bp 94°-97° C. (0.2 tor).

reactant | 2-bromo-4,6-dichlorotoluene | 220 g | BrC1=C(C(=CC(=C1)Cl)Cl)C | C7H5BrCl2
reactant | N-bromosuccinimide | 167 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-bromo-4,6-dichlorobenzyl bromide | 134 g | BrC1=C(CBr)C(=CC(=C1)Cl)Cl | C7H4Br2Cl2
